US07138420B2
To a solution of N-methyl-3-fluoro-4-nitrobenzamide (300 mg, 1.64 mmol) and diisopropylethylamine (0.43 mL, 2.46 mmol) in DMF (7 mL) was added butylamine (0.203 mL, 2.05 mmol) and the solution was stirred at room temperature overnight. The solution was concentrated, the residue dissolved in ethyl acetate and washed with 1 N HCl. The organic phase was dried over MgSO4 and concentrated to give N-methyl-3-butylamino-4-nitrobenzamide as a yellow oil that was used without further purification (380 mg, 92%).

reactant | N-methyl-3-fluoro-4-nitrobenzamide | 1.64 mmol, 300 mg | CNC(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C8H7FN2O3
reactant | diisopropylethylamine | 2.46 mmol, 0.43 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | butylamine | 2.05 mmol, 0.203 mL | C(CCC)N | C4H11N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | N-methyl-3-butylamino-4-nitrobenzamide | CNC(C1=CC(=C(C=C1)[N+](=O)[O-])NCCCC)=O | C12H17N3O3
